US09056862B2
To a solution of o-sulfobenzimide (5.00 g) in dioxane (20 ml) were added thionyl chloride (7.5 ml) and dimethylformamide (0.25 ml), and the mixture was stirred overnight at 110° C. The reaction mixture was concentrated under reduced pressure, and to the residue was added toluene (20 ml) to give 3-chloro-1,2-benzisothiazole 1,1-dioxide (3.77 g) as crystals. The obtained 3-chloro-1,2-benzisothiazole 1,1-dioxide (3.77 g) was dissolved in dioxane (20 ml), 3-aminorhodanine (2.77 g) was added thereto, and the mixture was stirred at 110° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and to the residue was added chloroform (20 ml) to give 3-[(4-oxo-2-thioxothiazolidin-3-yl)amino]-1,2-benzisothiazole 1,1-dioxide (3.56 g).

reactant | 3-chloro-1,2-benzisothiazole 1,1-dioxide | 3.77 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 3-aminorhodanine | 2.77 g | NN1C(SCC1=O)=S | C3H4N2OS2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[(4-oxo-2-thioxothiazolidin-3-yl)amino]-1,2-benzisothiazole 1,1-dioxide | 3.56 g | O=C1N(C(SC1)=S)NC1=NS(C2=C1C=CC=C2)(=O)=O | C10H7N3O3S3
